Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Chest Tube Placement ___
Chest Tube Removal ___

 
History of Present Illness:
This is a ___ yo F with a recent diagnosis of stage 4b 
endometrial cancer s/p debulking in ___ who presents 
with worsening shortness of breath. She was slightly tachycardic 
and tachypnic. O2 sat was slightly low, but normalized with NC. 
She was found to have an enlarging right pleural effusion. She 
underwent diagnostic and therapeutic thoracentesis in the ED. It 
is thought that her effusion is likely malignant, however, 
cytology is pending (peritoneal fluid was positive for 
malignancy). After drainage, the patient feels less dyspnic and 
only has some pain around the site of the catheter. About 2L of 
serosanguinous fluid has drained out so far.  

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.  
 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  

She presented with abdominal pain and constipation. CT A/P on 
___ revealed a 5.7 x 6.5 x 5.4 cm heterogeneous mass or 
fluid collection in the body of the uterus in addition to 
omental thickening in the pelvis and a small amount of free 
fluid. CA-125 was 99. A Chest CT on ___ showed no evidence 
of metastatic disease. Endometrial biopsy on ___ showed 
scant fragments of inactive endometrium and benign endocervical 
epithelium.  

Follow-up imaging with pelvic US on ___ showed a 8.5 x 5.8 x 
6.5 cm uterus with a markedly distended endometrial cavity with 
a polypoid mass measuring 8.7 x 5.4 x 7 cm with internal cystic 
spaces and vascularity. The ovaries were not visualized and 
there was a small amount of free fluid. Repeat endometrial 
biopsy of ___ showed clusters of highly atypical epithelial 
cells in a background of atrophic endometrium.  

On ___, she underwent a total abdominal hysterectomy, 
bilateral salpingo-oophorectomy, omentectomy, anterior pelvic 
peritonectomy, appendectomy, and resection of peritoneal 
nodules. Intra-operatively, there was an enlarged uterus with 
scant surface nodularity. The bilateral fallopian tubes and 
ovaries appeared normal. There was a 23 x 32 cm omental cake 
that was densely adherent to the anterior abdominal wall as well 
as multiple bowel adhesions to the omentum and sidewalls. The 
distal tip of the appendix was dilated and tortuous, adherent to 
tumor nodules of the sigmoid epliploica. There was fine 
nodularity on the right diaphragm, all <0.5 cm in size. At the 
conclusion of the surgery, there was no gross residual disease.  


Final pathology was notable for a grade 3 serous adenocarcinoma 
of the endometrium with tumor localized in an endometrial polyp 
without myometrial invasion or LVI and unremarkable fallopian 
tubes. ___ tumors were noted in the bilateral ovaries. The 
omentum, posterior cul-de-sac nodule, anterior bladder 
peritoneum, sigmoid epiploica, and appendix serosa showed 
evidence of metastatic serous carcinoma.  
 
PAST MEDICAL HISTORY:  
 Type 2 diabetes  
 Hypertension  
 Hyperlipidemia  
 Thyroid nodules  
 Uterine fibroids  
 Endometrial serous adenocarcinoma  
 
Social History:
___
Family History:
Denies any history of breast, ovarian, uterine or colon cancers. 
Notes her father had a history of diabetes and high blood 
pressure.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.8PO 122 / 74 R Lying ___ 4L NC  
GENERAL: AOx3, on NC but comfortable  
HEENT: aniceteric sclera  
NECK: JVD not elevated  
LUNGS: chest tube on right, skin intact, decreased breath sounds 
right posterior mid-lower lung fields  
CV: sinus tachycardia  
ABD: distended, tympanitic, TTP after abd surgery, scar site CDI 
 
EXT: no edema  
SKIN: intact  
NEURO: nonfocal  
ACCESS: PIV  

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.8, PO 100 / 40 98 20 92 RA  
GEN: well appearing, no acute distress 
HEENT: Sclera anicteric, MMM
Cards: RRR, nl S1/S2, no murmurs/rubs/gallops
Pulm: decreased breath sounds w/crackles on LLL, dressing in 
place overlying site of chest tube c/d/I, nontender
Abd: soft, NT, ND, NABS 
Skin: No concerning lesions 
Neuro: AAOx3, CN II-XII grossly intact

 
Pertinent Results:
ADMISSION LABS
==============

___ 04:00PM BLOOD WBC-11.6* RBC-4.38 Hgb-11.8 Hct-38.4 
MCV-88 MCH-26.9 MCHC-30.7* RDW-14.0 RDWSD-45.1 Plt ___
___ 04:00PM BLOOD Neuts-71.9* Lymphs-11.6* Monos-15.2* 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-8.31* AbsLymp-1.34 
AbsMono-1.76* AbsEos-0.05 AbsBaso-0.04
___ 04:00PM BLOOD ___ PTT-25.9 ___
___ 04:00PM BLOOD Plt ___
___ 04:00PM BLOOD Glucose-193* UreaN-16 Creat-0.5 Na-139 
K-4.3 Cl-100 HCO3-22 AnGap-21*
___ 04:00PM BLOOD LD(LDH)-195
___ 04:00PM BLOOD TotProt-6.2*
___ 04:21PM BLOOD Lactate-3.1*

MICRO
=====
Pleural fluid (___): negative
Blood culture (___): NGTD
Urine culture (___): negative 

IMAGES
======

CT Chest (___)
1.  Right chest tube terminating in the inferior right 
subpleural space. Moderate to large residual right and small to 
moderate left pleural effusions. 
2.  Consolidations involving the right middle, right lower, and 
left lower lobes demonstrate air bronchograms and are worrisome 
for partial atelectasis with superimposed pneumonia. 
3.  Subacute rib fractures involving the lateral aspects of the 
right eighth and ninth ribs. 

CXR (___)
Comparison to ___.  The right pigtail catheter was 
removed.  The extent and severity of the known right pleural 
effusion is stable.  No 
pneumothorax.  Minimal left pleural effusion.  Mild cardiomegaly 
without 
pulmonary edema. 

DISCHARGE LABS
===============
___ 07:33AM BLOOD WBC-6.1 RBC-4.06 Hgb-11.0* Hct-35.2 
MCV-87 MCH-27.1 MCHC-31.3* RDW-14.1 RDWSD-44.8 Plt ___
___ 07:33AM BLOOD Plt ___
___ 07:33AM BLOOD Glucose-164* UreaN-11 Creat-0.5 Na-140 
K-4.6 Cl-102 HCO3-29 AnGap-14
___ 07:33AM BLOOD Calcium-8.4 Phos-3.2 Mg-1.___ with PMH of HHTN, T2DM, HLD, and stage 4b metastatic 
endometrial cancer with worsening shortness of breath from 
likely malignant pleural effusion s/p drainage with chest tube 
with improved breathing after CT removal. 

# Dysnea: Patient was admitted with symptoms of dyspnea and new 
oxygen requirement of 4L. SOB was thought secondary to bilateral 
pleural effusions and there were no clinical or imaging findings 
suggestive of pneumonia. IP was consulted, with CT Chest 
concerning for trapped lung. A chest tube was placed on ___ and 
subsequently removed on ___. Repeat imaging did not demonstrate 
a pneumothorax. Oxygen requirement resolved and patient was >95% 
saturation at rest and with ambulation at the time of discharge. 
She has follow up with IP planned in the outpatient setting for 
consideration of pleurex catheter for more frequent outpatient 
drainage of likely malignant pleural effusions. 

# Stage 4b Metastatic Endometrial Cancer: With plan for likely 
palliative chemotherapy as outpatient. She was continued on 
Lovenox in patient and set up with oncology follow up within 1 
week of discharge.

CHRONIC ISSUES
============== 

# Hypertension: Home olmesartan-hydrochlorothiazide was held on 
admission and discharge given blood pressure controlled. She was 
continued on metoprolol and amlodipine during admission and on 
discharge. 

# DM: Home janument was held, pt was kept on ISS while in house. 


TRANSITIONAL ISSUES
===================

- O2 saturation: 95RA and with ambulation
- F/u with IP on ___ for ongoing discussions re: pleural 
fluid accumulation/possible need for pleurex placement if 
indicated
- Cytology from pleural fluid sampling pending at the time of 
discharge
- Patient will have f/u with outpatient oncologist ___. Will 
need outpatient CT A/P with PO and IV contrast for staging to be 
done in the outpatient setting. 
- Discharged on 40mg SQ Lovenox to be continued for 8 days until 
___, for a total of 28 days following surgery on ___. 
Further anticoagulation to be determined in outpatient oncology 
follow up. 
- HTN. Home Benicar HCT (olmesartan-hydrochlorothiazide) held 
during admission and held on discharge in the setting of 
normotension. Recommend re-evaluation of BP in the outpatient 
setting for need to resume anti-HTN medications 

CODE: Full (presumed) 
EMERGENCY CONTACT HCP: ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Jentadueto (linagliptin-metformin) 2.5-1,000 mg oral DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
6. Benicar HCT (olmesartan-hydrochlorothiazide) ___ mg oral 
DAILY 
7. Zolpidem Tartrate 10 mg PO QHS 
8. Docusate Sodium 100 mg PO BID 
9. lubiprostone 24 mcg oral DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC DAILY Duration: 8 Days 
To finish on ___ 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous daily Disp #*8 
Syringe Refills:*0 
2.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every 12 hours as needed 
for pain Disp #*6 Tablet Refills:*0 
3.  Zolpidem Tartrate 5 mg PO QHS 
Please only take 5mg given new dosing recommendation for women   

4.  amLODIPine 5 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  Docusate Sodium 100 mg PO BID  
7.  Jentadueto (linagliptin-metformin) 2.5-1,000 mg oral DAILY  
8.  lubiprostone 24 mcg oral DAILY  
9.  Metoprolol Succinate XL 100 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Malignant ascites
Endometrial Cancer

SECONDARY DIAGNOSIS:
Hypertension
DM
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to be part of your care at ___. 

You were admitted to the hospital because you were having 
difficulty breathing. You were found to have a collection of 
fluid in your lungs which was likely causing your difficulty 
breathing. The fluid was drained and your breathing improved. 

This fluid is related to your malignancy and as such it might 
recur. You will follow up with in the interventional pulmonology 
clinic to evaluate whether you will need a longer-term drain for 
this issue. 

If your breathing worsens, if you develop any fevers or cough, 
then please contact your doctor. 

We wish you the best,
Your ___ Team 
 
Followup Instructions:
___